US05288707
The desired (+)-pinanediol-(S)-1-chloro-5-bromo-pentane-1-boronate is prepared according to the procedure given in Organometallics 3, 1284 (1984). Therefore methylenechloride (9.8 ml) in THF is cooled to -100° C. and n-butyllithium (71.6 ml 1.6M solution, 114.5 mMol) is added over 20 min. After 15 min at -100° C., a cold (-78° C.) solution of (+)-pinanediol-5-bromo-pentane-1-boronate (32,8 g, 104.1 mMol) in THF is added. After additional 1 hr at -100° C. anhydrous ZnCl2 (7.1 g, 52,0 mMol) in THF is added. After additional 15 min at -100° C. the reaction mixture is warmed to room temperature and stirred for 2 hr at this temperature. The solvent is removed in vacuo, the residue is diluted with hexane/water and is extracted several times with hexane. After drying over Na2SO4 and removal of the solvent in vacuo, (+ )-pinanediol-(S)-1-chloro-5-bromo-pentane-1-boronate is obtained as a yellow oil which is used directly in the next step without further purification.

reactant | methylenechloride | 9.8 ml | C(Cl)Cl | CH2Cl2
reactant | n-butyllithium | 114.5 mMol, 1.6M, 71.6 ml | C(CCC)[Li]
reactant | (+)-pinanediol 5-bromo-pentane-1-boronate | 104.1 mMol, 32,8 g | C12(C(CCC(C1(C)C)C2)(C)O)O.BrCCCCCB([O-])[O-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 52,0 mMol, 7.1 g | [Cl-].[Cl-].[Zn+2]
product | (+ )-pinanediol (S)-1-chloro-5-bromo-pentane-1-boronate | C12(C(CCC(C1(C)C)C2)(C)O)O.Cl[C@H](CCCCBr)B([O-])[O-] | InChI=1S/C10H18O2.C5H9BBrClO2/c1-8(2)7-4-5-9(3,11)10(8,12)6-7;7-4-2-1-3-5(8)6(9)10/h7,11-12H,4-6H2,1-3H3;5H,1-4H2/q;-2/t;5-/m.1/s1
